US06008229
A mixture of N-(2-tert-butoxycarbonylaminoethyl)phthalimide (2.5 g) and 4N solution of hydrogen chloride in ethyl acetate (25 ml) was stirred for 1 hour at ambient temperature. The resulting precipitates were collected by filtration and washed with ethyl acetate to give N-(2-aminoethyl)phthalimide hydrochloride (1.89 g) as colorless crystals.

reactant | N-(2-tert-butoxycarbonylaminoethyl)phthalimide | 2.5 g | C(C)(C)(C)OC(=O)NCCN1C(C=2C(C1=O)=CC=CC2)=O | C15H18N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | N-(2-aminoethyl)phthalimide hydrochloride | 1.89 g | Cl.NCCN1C(C=2C(C1=O)=CC=CC2)=O | InChI=1S/C10H10N2O2.ClH/c11-5-6-12-9(13)7-3-1-2-4-8(7)10(12)14;/h1-4H,5-6,11H2;1H
